US06107329
(2RS)-[(5-Chloro-1H-indole-2-carbonyl)-amino]-2-methyl-3-phenyl-propionic acid
Aqueous 2N LiOH (0.10 ml, 0.50 mmol) was added to a solution of (2RS)-[(5-chloro-1H-indole-2-carbonyl)-amino]-2-methyl-3-phenyl-propionic acid methyl ester (132 mg, 0.36 mmol) in tetrahydrofuran (8 ml) at 25° C. The resulting solution was stirred for 1 hour, concentrated and the residue dissolved in ethyl acetate and water (15 ml). The pH was adjusted to 1 with 2 N HCl at 0° C. The organic layer was separated, washed with water, brine and dried giving a foam which was used without further purification (129 mg, 102%): HPLC (60/40) 4.42 minutes (99%); TSPMS 357/359 (MH+, 100%);

reactant | LiOH | 0.50 mmol, 2N, 0.10 ml | [Li+].[OH-]
reactant | (2RS)-[(5-chloro-1H-indole-2-carbonyl)-amino]-2-methyl-3-phenyl-propionic acid methyl ester | 0.36 mmol, 132 mg | COC(C(CC1=CC=CC=C1)(C)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C20H19ClN2O3
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (2RS)-[(5-Chloro-1H-indole-2-carbonyl)-amino]-2-methyl-3-phenyl-propionic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)(CC1=CC=CC=C1)C | C19H17ClN2O3
